US04629797
Ethyl 2-(4-chloro-3-hydroxybutanamido)acetate
5.08 ml diketene are dissolved in 40 ml CH2Cl2. The solution is cooled to -30° C. and chlorine is passed through for 90 min. The solution is then added rapidly dropwise to a solution of glycine ethyl ester in 160 ml CH2Cl2 prepared as in the preceding example. After stirring for 30 min, the solvent is evaporated in vacuo, the residue is taken up in ethyl acetate and the salts filtered off. The solvent is evaporated, the oily residue is dissolved in 150 ml ethanol, cooled in ice, and 1.26 g NaBH4 is added in portions. After 30 min a few drops of dilute hydrochloric acid are added, the solvent is evaporated, the residue is taken up in ethyl acetate, washed with brine and dried. The solvent is evaporated and the residue chromatographed on silica, eluting with ethyl acetate. The compound is obtained as a white powder, m.p. 53°-4° C.

reactant | diketene | 5.08 ml | C=C1CC(=O)O1 | C4H4O2
reactant | chlorine | ClCl | Cl2
reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 160 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-chloro-3-hydroxybutanamido)acetate | ClCC(CC(=O)NCC(=O)OCC)O | C8H14ClNO4
